US07138530B2
a) 4-Iodo-5-methyl-1H-benzoimidazole
A solution of 5-methyl-1H-benzoimidazole (132 mg, 1.0 mmol) and NIS (248 mg, 1.10 mmol) in 1 mL of TFA was reflux for 1 hr and then cooled to RT. Treated with 30 mL of EtOAc, the mixture was neutralized with sat. NaHCO3 solution. The organic layer was washed with H2O (10 mL), brine (10 mL) and dried (Na2SO4). Removal of the solvent under reduced pressure followed by flash chromatography of the residue on silica gel (5% MeOH/CH2Cl2) gave 78 mg (30%) of product as a white solid: 1H-NMR (CDCl3; 400 MHz) δ 8.07 (d, 1H), 7.57 (br s, 1H), 7.22 (d, 1H, J. 8.4 Hz), 2.59 (s, 3H). Mass spectrum (ESI, m/z): Calcd. for C8H7IN2, 259.0 (M+H), found 259.2.

reactant | 5-methyl-1H-benzoimidazole | 1.0 mmol, 132 mg | CC1=CC2=C(NC=N2)C=C1 | C8H8N2
reactant | NIS | 1.10 mmol, 248 mg | C1CC(=O)N(C1=O)I | C4H4INO2
reactant | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-Iodo-5-methyl-1H-benzoimidazole | 78 mg, 30% | IC1=C(C=CC=2NC=NC21)C | C8H7IN2
